US07405305B2
(5-hydroxybenzofur-7-yl)acetonitrile
Dissolve [5-(tetrahydropyran-2-yloxy)benzofur-7-yl]acetonitrile (3.89 g, 0.015 mol) in methanol (100 mL) and add para-toluene sulfonic acid monohydrate (0.288 g, 0.1 equivalent). After 20 minutes extract with ethyl acetate against water, then wash with brine. Concentration in vacuo affords 2.5 g (95.5%) of the title compound as an off-white solid. HRMS(m/z): Calcd 173.0465 Found 173.0477.

reactant | [5-(tetrahydropyran-2-yloxy)benzofur-7-yl]acetonitrile | 0.015 mol, 3.89 g | O1C(CCCC1)OC=1C=C(C2=C(C=CO2)C1)CC#N | C15H15NO3
reactant | para-toluene sulfonic acid monohydrate | 0.288 g, 0.1 equivalent | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 100 mL | CO | CH4O
product | (5-hydroxybenzofur-7-yl)acetonitrile | 2.5 g, 95.5% | OC=1C=C(C2=C(C=CO2)C1)CC#N | C10H7NO2
